US09193693B2
Step 2. 3-(Isopropyl(methyl)amino)-2-(4-methoxyphenyl)quinoxaline-6-carboxylic acid
Into a 50-mL round-bottom flask, was placed methyl 3-(isopropyl(methyl)amino)-2-(4-methoxyphenyl)quinoxaline-6-carboxylate (110 mg, 0.30 mmol, 1.00 equiv), methanol (15 mL), sodium hydroxide (60 mg, 1.50 mmol, 5.00 equiv), and water (2 mL). The resulting solution was stirred for 5 hr at 50° C. in an oil bath. The resulting mixture was concentrated in vacuo and diluted with 20 mL of water. The pH value of the aqueous solution was adjusted to 4-5 with aq. hydrogen chloride (1 mol/L). The resulting solids were collected by filtration. This resulted in 50 mg (46%) of 3-(isopropyl(methyl)amino)-2-(4-methoxyphenyl)quinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 3-(isopropyl(methyl)amino)-2-(4-methoxyphenyl)quinoxaline-6-carboxylate | 0.30 mmol, 110 mg, 1.00 equiv | C(C)(C)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)OC)C | C21H23N3O3
reactant | methanol | 15 mL | CO | CH4O
reactant | sodium hydroxide | 1.50 mmol, 60 mg, 5.00 equiv | [OH-].[Na+]
solvent | water | 2 mL | O | H2O
product | 3-(Isopropyl(methyl)amino)-2-(4-methoxyphenyl)quinoxaline-6-carboxylic acid | C(C)(C)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=C(C=C1)OC)C | C20H21N3O3
